US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with N,N-diethylethane-1,2-diamine to give (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-2-methoxy-phenyl]-amide hydrochloride. MS (ES+) m/z calcd. for C37H44Cl2F2N5O3: [(M+H)+]: 714. found: 714.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | N,N-diethylethane-1,2-diamine | C(C)N(CCN)CC | C6H16N2
product | (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid [4-(2-diethylamino-ethylcarbamoyl)-2-methoxy-phenyl]-amide hydrochloride | Cl.C(C)N(CCNC(=O)C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)CC | InChI=1S/C37H43Cl2F2N5O3.ClH/c1-7-46(8-2)17-16-43-34(47)22-12-15-28(29(18-22)49-6)44-35(48)33-31(24-10-9-11-26(39)32(24)41)37(21-42,30(45-33)20-36(3,4)5)25-14-13-23(38)19-27(25)40;/h9-15,18-19,30-31,33,45H,7-8,16-17,20H2,1-6H3,(H,43,47)(H,44,48);1H/t30-,31-,33+,37-;/m0./s1
